US07728018B2
5-Phenyl-4,5-dihydro-1H-pyrazole
Under N2 atmosphere, hydrazine hydrate (9.2 mL) was added to a solution of cinnamaldehyde (10.0 g) in t-BuOH (20 mL). The mixture was refluxed overnight, followed by concentration under reduced pressure. Water was added to the residue, and the aqueous phase was extracted twice with DCM. The combined organic layers were washed with water, dried over Na2SO4 and concentrated under reduced pressure. This gave 10.46 g of a yellow oil containing 85% of the desired product, which was used in subsequent steps without further purification. 1H NMR (200 MHz, CDCl3) δ 2.61-2.80 (m, 1H), 3.04-3.23 (m, 1H), 4.72 (dd, J=8 and 10 Hz, 1H), 5.60-6.10 (br s, 1H), 6.77-6.87 (m, 1H), 7.18-7.47 (m, 5H).

reactant | hydrazine hydrate | 9.2 mL | O.NN
reactant | cinnamaldehyde | 10.0 g | C(C=CC1=CC=CC=C1)=O | C9H8O
solvent | t-BuOH | 20 mL | CC(C)(C)O | C4H10O
product | 5-Phenyl-4,5-dihydro-1H-pyrazole | C1(=CC=CC=C1)C1CC=NN1 | C9H10N2
